US08314147B2
Intermediate 84 (3-chlorophenyl)methyl 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoate (Intermediate 43, Alkylation Step)
To a solution of 5-hydroxy-2-methylbenzoic acid (1.0 g, 6.6 mmol) in DMF (50 ml) were added potassium carbonate (1.82 g, 13.14 mmol, 2.0 eq) and 3-chlorobenzyl bromide (1.72 g, 13.14 mmol, 2.0 eq). The mixture was stirred at 70° C. for 2 hours and then left stirring at room temperature overnight. The temperature was increased to 80° C. and heating continued for a further 6 hours. After cooling the mixture was diluted with ethyl acetate (200 ml) and washed with water (2×200 ml). Organic layer was separated, dried over MgSO4, filtered and evaporated to dryness to afford the title compound as a yellow oil, 2.67 g (contains 24% of monoalkylated phenol impurity). No further purification carried out. MS (ES−) m/z 399 [M−H]− (C22H1835Cl2O3). 1H-NMR (400 MHz, CDCl3) δ 2.52 (3H, s), 5.04 (2H, s), 5.29 (2H, s), 7.02 (1H, dd, J 8.4, J 2.8), 7.16 (1H, d, J 8.4), 7.29-7.34 (6H, m), 7.43 (2H, d, J 1.2), 7.54 (1H, d, J 2.8).

reactant | 5-hydroxy-2-methylbenzoic acid | 6.6 mmol, 1.0 g | OC=1C=CC(=C(C(=O)O)C1)C | C8H8O3
reactant | potassium carbonate | 13.14 mmol, 1.82 g, 2.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorobenzyl bromide | 13.14 mmol, 1.72 g, 2.0 eq | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3-chlorophenyl)methyl 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoate | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)OCC2=CC(=CC=C2)Cl)C1)C | C22H18Cl2O3
